US05155113
Preparation of 6-benzoyloxy-3-chloro-2-hydroxypyridine
Benzoic anhydride (5.81 g) was added to a solution of 3.74 g of 3-chloro-2,6-dihydroxypyridine in 100 ml of pyridine and the mixture was stirred at room temperature for 1.5 hours. The reaction mixture was concentrated under reduced pressure. The residue was washed with ether and recrystallized from acetone, giving 3.07 g of the title compound in a yield of 48%.

reactant | Benzoic anhydride | 5.81 g | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
reactant | 3-chloro-2,6-dihydroxypyridine | 3.74 g | ClC=1C(=NC(=CC1)O)O | C5H4ClNO2
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 6-benzoyloxy-3-chloro-2-hydroxypyridine | 3.07 g, yield of 48% | C(C1=CC=CC=C1)(=O)OC1=CC=C(C(=N1)O)Cl | C12H8ClNO3
